US06130326
1-(2',3',5'-Tri-O-benzoyl-β-L-ribofuranosyl)-6-methyluracil (40)
A mixture of 6-methyluracil (2.52 g, 20.0 mmol), hexamethyldisilazine (50 mL) and ammonium sulfate (100 mg ) were refluxed at 135° C. for 6 h. The solvent was removed in vacuo and the residue that obtained was co-evaporated twice with dry toluene (2×50 mL) to remove last traces of hexamethyldisilazine. The solid thus obtained was dried under vacuum for 6 h. A solution of the 2,4-bis(trimethylsilyloxy)-6-methylpyrimidine (20.0 mmol) in dry acetonitrile (100 mL) was added 1-O-acetyl-2,3,5-tri-O-benzoyl-L-ribofuranose (10.12 g, 20 mmol) and trimethylsilyltriflate (5.78 g, 26.0 mmol). The reaction mixture was stirred under argon at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue was dissolved in dichloromethane (200 mL). The organic layer was washed with sat. sodium bicarbonate (200 mL) and brine (100 mL), dried over sodium sulfate and concentrated to yield a white foam. Further separation of the crude product by silica gel flash column chromatography using the CH2Cl2 →EtOAc as the eluent gave two products. Yield of the 2nd fraction 4.50 g (42%). 1H NMR (CDCl3) δ 2.28 (s, 3H, CH3), 4.65-4.81 (m, 3H, C4'H and C5'H), 5.60 (m, 1H, C3'H), 5.72 (s, 1H), 6.11 (m, 1H), 7.24-8.06 (m, 16H, PhH) and 9.40 (br s, 1H, NH). The first fraction (4.20 g) did not correspond to the desired compound according to 1H NMR.

reactant | 6-methyluracil | 20.0 mmol, 2.52 g | CC1=CC(NC(N1)=O)=O | C5H6N2O2
reactant | hexamethyldisilazine | 50 mL | CC1(C(C(N=[SiH][SiH2]1)(C)C)(C)C)C | C9H21NSi2
reactant | ammonium sulfate | 100 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 2,4-bis(trimethylsilyloxy)-6-methylpyrimidine | 20.0 mmol | C[Si](OC1=NC(=CC(=N1)O[Si](C)(C)C)C)(C)C | C11H22N2O2Si2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-L-ribofuranose | 20 mmol, 10.12 g | C(C)(=O)OC1[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | trimethylsilyltriflate | 26.0 mmol, 5.78 g | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2',3',5'-Tri-O-benzoyl-β-L-ribofuranosyl)-6-methyluracil | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C=C1C | C31H26N2O9
